US08026257B2
tert-Butyl 4-((1-(5-chloro-2-((2-(trimethylsilyl)ethoxy)methyl)-2H-indazol-7-yl)-2-hydroxyethoxy)methyl)-4-(4-fluorophenyl)piperidine-1-carboxylate.
To a solution of tert-butyl 4-((1-(5-chloro-2-((2-(trimethylsilyl)ethoxy)methyl)-2H-indazol-7-yl)-2-methoxy-2-oxoethoxy)methyl)-4-(4-fluorophenyl)piperidine-1-carboxylate (850 mg, 1.28 mmol) in tetrahydrofuran (7.4 mL) and methanol (0.37 mL) at 0° C. was added lithium borohydride (55.9 mg, 2.57 mmol). The ice bath was removed and stirring continued for 30 min. The reaction was diluted with diethyl ether and quenched by addition of saturated ammonium chloride. The ethereal was washed with water, then brine, dried over magnesium sulfate, and concentrated. Column chromatography (25%→50% ethyl acetate/n-hexane) gave 794 mg (98%) as a foam solid. 1H-NMR (CDCl3, 500 MHz) δ 8.01 (s, 1H), 7.52 (d, J=1.5 Hz, 1H), 7.33 (dd, J=8.6, 5.2 Hz, 2H), 7.05 (dd, J=8.6, 8.5 Hz, 2H), 6.75 (s, 1H), 5.65 (d, J=10.7 Hz, 1H), 5.62 (d, J=10.7 Hz, 1H), 4.95 (dd, J=7.0, 3.4 Hz, 1H), 3.55-3.85 (m, 6H), 3.52 (d, J=8.9 Hz, 1H), 3.41 (d, J=8.9 Hz, 1H), 3.06 (m, 2H), 2.10-2.35 (m, 3H), 1.88 (m, 2H), 1.43 (s, 9H), 0.90 (t, J=8.2 Hz, 2H), −0.06 (s, 9H); 13C NMR (126 MHz, CDCl3) δ ppm 161.5 (d, J=246 Hz), 155.0, 145.7, 138.6, 130.2, 128.8 (d, J=7.7 Hz), 128.1, 124.2, 122.8, 122.5, 118.5, 115.4 (d, J=21 Hz), 81.9, 79.5, 79.1, 78.6, 67.7, 66.2, 41.5, 40.0, 32.3, 32.2, 28.6, 17.9, −1.4. Mass spec.: 634.38 (MH)+.

reactant | tert-butyl 4-((1-(5-chloro-2-((2-(trimethylsilyl)ethoxy)methyl)-2H-indazol-7-yl)-2-methoxy-2-oxoethoxy)methyl)-4-(4-fluorophenyl)piperidine-1-carboxylate | 1.28 mmol, 850 mg | ClC1=CC2=CN(N=C2C(=C1)C(C(=O)OC)OCC1(CCN(CC1)C(=O)OC(C)(C)C)C1=CC=C(C=C1)F)COCC[Si](C)(C)C | C33H45ClFN3O6Si
reactant | lithium borohydride | 2.57 mmol, 55.9 mg | [BH4-].[Li+]
solvent | tetrahydrofuran | 7.4 mL | O1CCCC1 | C4H8O
solvent | methanol | 0.37 mL | CO | CH4O
product | tert-Butyl 4-((1-(5-chloro-2-((2-(trimethylsilyl)ethoxy)methyl)-2H-indazol-7-yl)-2-hydroxyethoxy)methyl)-4-(4-fluorophenyl)piperidine-1-carboxylate | ClC1=CC2=CN(N=C2C(=C1)C(CO)OCC1(CCN(CC1)C(=O)OC(C)(C)C)C1=CC=C(C=C1)F)COCC[Si](C)(C)C | C32H45ClFN3O5Si
